US09212147B2
Under ice-cooling, to a solution (20 mL) of benzyl alcohol (580 mg) in tetrahydrofuran was added 60% sodium hydride (220 mg), and the mixture was stirred for 10 min. To the mixture was added a solution (10 mL) of 3-[(E)-2-(3,5-difluorophenyl)vinyl][1,4]benzodioxino[2,3-c]pyridazine (700 mg) in tetrahydrofuran, and the mixture was stirred at 60° C. for 4 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3,4-bis(benzyloxy)-6-[(E)-2-(3,5-difluorophenyl)vinyl]pyridazine (710 mg).

reactant | benzyl alcohol | 20 mL, 580 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 220 mg | [H-].[Na+]
reactant | 3-[(E)-2-(3,5-difluorophenyl)vinyl][1,4]benzodioxino[2,3-c]pyridazine | 10 mL, 700 mg | FC=1C=C(C=C(C1)F)/C=C/C1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C18H10F2N2O2
reactant | Water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-bis(benzyloxy)-6-[(E)-2-(3,5-difluorophenyl)vinyl]pyridazine | 710 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)\C=C\C1=CC(=CC(=C1)F)F | C26H20F2N2O2
